### PR TITLE
feat: transcribe the J2 presentation

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR transcribes Stoytchev's finite presentation of the second Janko group `J₂` into `TauCeti.GroupPresentation`, advancing `TauCetiRoadmap/CFSGStatement/README.md`, milestone **S1: the twenty-six sporadic presentations**, target “Fill every `SporadicName.presentation` branch with the complete signed relator words from the S0 manifest.” Record the two generator names, the exact source and locator, the source's conventions, the expected two-generator/three-relator counts, and the three structured relator expressions. After this PR, S1 still needs the other twenty-five sporadic rows and their independent transcription reviews before A0 can assemble `CFSGIndex.Group`.

This is the most effective distinct current step because the S0 relator compiler and presentation metadata are on `main`, while the remaining I0 selectors, the Mathieu rows, and the Y-diagram machinery are already covered by open PRs #2629, #2630, #2653, and #2644. The `J₂` row is independent of all four and directly reduces the unfilled data required by A0.

The presentation is the `n = 7`, order `604800` entry in Section 3 of O. Stoytchev, *A Class of Efficient Presentations of Finite Simple Groups*, arXiv:2011.05660v1 (2020): `aba = bab`, `ab²a = b⁵`, and `(ab⁻¹ab⁻³a³b⁻¹)³a⁷ = 1`. The source gives the final exponent as `±3`; this row records the positive choice. As an independent source-to-data check, GAP 4.15.1 enumerates the exact transcribed relators over the trivial subgroup to order `604800`, agreeing with the paper and GAP's Atlas `J2` order. This is recorded only as provenance: the Lean file makes no finiteness, simplicity, order, or identification claim.

Reuse Tau Ceti's landed `Relator`, its proved `Relator.toWord_toFreeGroup` compiler theorem, and `GroupPresentation`; no Mathlib or external formalization is vendored. Add `TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean` (98 lines).

Roadmap: CFSGStatement

🤖 Prepared with Codex

### CODE REVIEW

File: TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean
Comment (sqrt-of-2) [inline TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: ### ✅ scope — now passing on `14d4f7f`.

Comment (sqrt-of-2) [inline TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: ### ✅ api-design — now passing on `14d4f7f`.

**Comment by sqrt-of-2** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/correctness.md) | approved | `agy/gemini-3.6-flash-high` | The transcribed presentation of J₂ in `TauCeti.Sporadic.j2Presentation` faithfully formalizes Stoytchev's finite presentation (arXiv:2011.05660v1, Section 3) with correct relator expressions, generator indices, and metadata counts. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/reuse.md) | approved | `agy/gemini-3.6-flash-high` | The PR introduces TauCeti.Sporadic.j2Presentation and its metadata verification theorem, adding genuinely new material to Tau Ceti. It properly reuses the existing GroupPresentation and Relator infrastructure without duplicating declarations from Mathlib or Tau Ceti. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md) | approved | `agy/gemini-3.6-flash-high` | This PR is a single coherent unit advancing milestone S1 of TauCetiRoadmap/CFSGStatement/README.md by transcribing Stoytchev's finite presentation of the second Janko group J₂ into GroupPresentation. Its prerequisite stage S0 infrastructure is present on main, and the change adds no unrelated material. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/attribution.md) | approved | `agy/gemini-3.6-flash-high` | The PR properly credits its paper source (Stoytchev, arXiv:2011.05660v1) in the module docstrings, reference section, and metadata fields. No uncredited formal or informal sources are used. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/api-design.md) | approved | `agy/gemini-3.6-flash-high` | The public interface for `j2Presentation` is minimal, keeping internal helpers private and leaving the definition body unexposed. The metadata theorem `j2Presentation_matchesMetadata` correctly uses the canonical `matchesMetadata` predicate with no obsolete compatibility surface. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md) | approved | `agy/gemini-3.6-flash-high` | The transcribed J₂ presentation and metadata verification theorem sit at the natural level of generality for a sporadic group manifest entry. There are no unused assumptions, over-abstractions, or duplicated special cases. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/placement.md) | approved | `agy/gemini-3.6-flash-high` | The new module is placed in its canonical location under TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/ and imports only the required GroupPresentation module. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/naming.md) | approved | `agy/gemini-3.6-flash-high` | The declaration names, casing, and theorem identifier in `TauCeti.GroupTheory.SpecificGroups.CFSG.Sporadic.Janko` follow standard Mathlib naming conventions. The theorem name accurately describes its proposition and the file-local infix notation is minimal. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/documentation.md) | approved | `agy/gemini-3.6-flash-high` | The new module `TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean` includes a complete module docstring explaining its contents and provenance, and all public declarations are documented accurately without overclaiming. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/proof-quality.md) | approved | `agy/gemini-3.6-flash-high` | The single proof uses `decide` to verify decidable metadata constraints. The proof script is robust and readable. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f3a6a5a25cec73efcf4c3a3beca4956866dc9f8b...14d4f7f85a7c2ec0886c226f76b941022ad08eb7) at head `14d4f7f`. rubrics @ [`b8161ef`](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics). Review spend: $0.35.</sub>

File: TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean
Comment (sqrt-of-2) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: Contesting: `@[simp]` on `j2Presentation_matchesMetadata` is not admissible here — it makes CI fail Mathlib's `simpNF` linter, and the only ways to keep it are things the repo forbids.

**Empirical check.** With `@[simp]` added, the file still builds, but the environment-linter pass that CI runs (`scripts/lint-env.sh`, invoked at `.github/workflows/ci.yml:93`, which runs `#lint only … simpNF …` over the whole `TauCeti` environment and is fatal) reports:

```
-- TauCeti.GroupTheory.SpecificGroups.CFSG.Sporadic.Janko
#check TauCeti.Sporadic.j2Presentation_matchesMetadata /- Left-hand side simplifies from
  TauCeti.Sporadic.j2Presentation.matchesMetadata
to
  TauCeti.Sporadic.j2Presentation.generatorCount = TauCeti.Sporadic.j2Presentation.expectedGeneratorCount ∧
    TauCeti.Sporadic.j2Presentation.transcribed.length = TauCeti.Sporadic.j2Presentation.expectedRelatorCount
using
  simp only [*, TauCeti.GroupPresentation.matchesMetadata_iff]
Try to change the left-hand side to the simplified term! -/
```

(Reproduced locally against the built oleans: `#lint only simpNF in TauCeti` → `Found 1 error in 36 declarations`. Without the annotation the same run is clean.)

**Why it cannot be repaired in place.**

1. The generic characteristic lemma `GroupPresentation.matchesMetadata_iff` is *already* `@[simp]` on `main` (`TauCeti/GroupTheory/Presentation/GroupPresentation.lean`), so `P.matchesMetadata` is not a simp-normal head for any `P`. The automation this rubric asks for therefore already exists, at the general level where it belongs; a per-row copy is by construction not in simp normal form.
2. Restating the lemma in simp-normal form (the two count equations) would not give a usable simp fact either: `j2Presentation`'s body is deliberately unexposed (which this same rubric approves — "bodies are hidden"), so simp cannot reduce the projections. Verified: `example : TauCeti.Sporadic.j2Presentation.matchesMetadata := by simp` fails with

   ```
   unsolved goals
   ⊢ TauCeti.Sporadic.j2Presentation.generatorCount = TauCeti.Sporadic.j2Presentation.expectedGeneratorCount ∧
       TauCeti.Sporadic.j2Presentation.transcribed.length = TauCeti.Sporadic.j2Presentation.expectedRelatorCount
   ```

   Exposing the body to make the annotation fire would trade a green api-design point ("no `@[expose]` where possible") for a `@[simp]` on a closed datum.
3. The remaining option, `@[nolint simpNF]`, is silencing a linter to force a change through, which the repo rules forbid.

**On the merits.** `j2Presentation_matchesMetadata` is not a rewriting rule: it is a closed, `decide`-checked audit fact about one concrete record, with no free variables and no term in the library that a rewrite could ever fire on. It is consumed by being cited, not by `simp`. Marking such a fact `@[simp]` is exactly the "annotation that would … fire wrongly" case, and here the linter says so mechanically.

No code change pushed for this finding; `lake build` and `lake exe axioms` are green at the current head.

Comment (sqrt-of-2) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: Contesting: milestone S0 *is* on `main`, and the "26-row source manifest" is not a Lean artifact that a PR in this repo can land — so the requested fix is not an available action, and taken literally it conflicts with this rubric's own single-topic clause and with S1's stated review procedure.

**1. S0's deliverables are on `main`.** The milestone table (`TauCetiRoadmap/CFSGStatement/README.md`) lists S0 as "relator expression type compiling to signed words, the compilation lemmas, and a 26-row source manifest", with completion evidence "`Relator.toWord_toFreeGroup` is proved; every source is a full presentation, is locatable, and is proved to define its group". Both Lean halves are merged:

* `TauCeti/GroupTheory/Presentation/Relator.lean` — merged in #2578; `Relator.toWord_toFreeGroup` is proved there.
* `TauCeti/GroupTheory/Presentation/GroupPresentation.lean` — merged in #2612; its module docstring states verbatim: "This file implements the finite-presentation metadata format in milestone S0 of `TauCetiRoadmap/CFSGStatement/README.md`."

So the check this rubric prescribes — "confirm that stage exists on `main` or in an open PR" — passes on the stage's Lean content.

**2. The manifest has no home in this repo.** The roadmap says: "Before transcribing, create a 26-row source manifest. Each row records the name, exact source, page/theorem or stable identifier, generator names, expected generator and relator counts, transcription artifact, and review status." Those fields are *exactly* the fields of the S0 `GroupPresentation` structure (`source`, `sourceLocator`, `generatorConvention`, `transcriptionNotes`, `expectedGeneratorCount`, `expectedRelatorCount`, `generatorNames`), plus a review status that lives on the PR, not in Lean. A manifest row in this design **is** a `GroupPresentation` record together with its transcription review — which is what this PR is. There is no separate document to land: `TauCeti/` holds Lean only, and the roadmap repo is human-owned (agents must never open a PR or issue there), so "land the manifest first" is not an action a Lean PR can take.

**3. The literal reading contradicts the rest of the review discipline.** If "all 26 rows first" meant one Lean PR carrying all 26 sporadic presentations, it would be twenty-six independent transcriptions in a single change — which this same rubric's single-topic clause blocks ("several unrelated targets at once"), and which defeats the S1 procedure the roadmap requires: "For each transcription, check the recorded relator count against the transcribed list, and require an independent source-to-Lean read-through before marking the row reviewed." A per-row review is only possible with per-row PRs. That is also how the lane is in fact being worked: #2653 (M₁₁, M₁₂, M₂₂), #2659 (Th), #2663 (J₁) are open alongside this one, each one or a few rows.

**4. This row satisfies S0's admissibility standard on its own terms.** S0 requires that each row cite "a source in which the presentation is *proved* to define the named group, not merely asserted to", and rejects semi-presentations. Stoytchev, arXiv:2011.05660v1, Section 3 gives a full presentation of the abstract group with a proof, not an ATLAS-style generator-checking semi-presentation; the exact locator (`n = 7`, order `604800`), the generator convention, the `±3` normalization choice, and the counts are all recorded in the record itself and the counts are kernel-checked by `j2Presentation_matchesMetadata`.

Nothing about S1 gets closer if every row waits on a document that cannot be written here. No code change pushed for this finding; `lake build` and `lake exe axioms` are green at the current head.

Comment (CBirkbeck) [inline TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

The presentation is new, but its metadata theorem bypasses and restates the existing generic metadata API.

- `TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:97` — `j2Presentation_matchesMetadata` restates the conjunction already exposed as `GroupPresentation.matchesMetadata`, creating a parallel theorem interface. _Fix:_ State the theorem as `j2Presentation.matchesMetadata` and prove it with `decide`; callers needing the conjunction can use `GroupPresentation.matchesMetadata_iff`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 31s · 68.5k in / 819 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f3a6a5a25cec73efcf4c3a3beca4956866dc9f8b...4e0f97ff06f558b9a10e4a9315cfa00e08d3b2d0) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/reuse.md)</sub>

Comment (CBirkbeck) [inline TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: ### 🟡 scope — request_changes  `codex/gpt-5.6-sol`

The J₂ transcription targets S1 before its required S0 source manifest exists.

- `TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:13` — This begins S1 while the prerequisite S0 milestone is absent: the repository has the presentation format but no 26-row source manifest. _Fix:_ Land the complete S0 manifest first (or identify an open PR containing it), then add this S1 row.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 43s · 111.9k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f3a6a5a25cec73efcf4c3a3beca4956866dc9f8b...4e0f97ff06f558b9a10e4a9315cfa00e08d3b2d0) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md)</sub>

Comment (CBirkbeck) [inline TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: ### 🟡 generality — request_changes  `codex/gpt-5.6-sol`

The presentation data is naturally scoped, but its metadata theorem bypasses the canonical predicate already provided by the general API.

- `TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:97` — `j2Presentation_matchesMetadata` restates the two implementation equalities instead of asserting the natural API-level proposition `j2Presentation.matchesMetadata`. _Fix:_ Change the theorem statement to `j2Presentation.matchesMetadata`; the existing `by decide` proof should still apply.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 28s · 61.4k in / 704 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f3a6a5a25cec73efcf4c3a3beca4956866dc9f8b...4e0f97ff06f558b9a10e4a9315cfa00e08d3b2d0) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md)</sub>

**Comment by CBirkbeck** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The three structured relators faithfully encode the cited positive-exponent J₂ presentation, with correct generator order, inversion, powers, and metadata counts. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | The presentation is new, but its metadata theorem bypasses and restates the existing generic metadata API. |
| 🟡 | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md) | changes requested | `codex/gpt-5.6-sol` | The J₂ transcription targets S1 before its required S0 source manifest exists. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The code credits the central source with author, title, arXiv version, section, entry locator, conventions, and transcription choices; no unattributed formalization is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The public surface is minimal and sufficient: the presentation and its named metadata check are exposed, proof-only relator helpers remain private, and the existing `GroupPresentation` API supplies the characteristic compiled-word and relator-set lemmas with appropriate simplification rules. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md) | changes requested | `codex/gpt-5.6-sol` | The presentation data is naturally scoped, but its metadata theorem bypasses the canonical predicate already provided by the general API. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The J₂ presentation is naturally placed under CFSG/Sporadic in a Janko-family module, and its sole import is the specific presentation API it uses. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their declarations, and the multiplication notation is local, minimal, and uses conventional precedence. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new substantive module has a useful module docstring, and its public definition and theorem are documented accurately without claiming Lean proves the cited group identification or structural properties. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The sole proof is a direct decidable metadata computation and is robust, concise, and free of undocumented definitional-equality manipulation. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f3a6a5a25cec73efcf4c3a3beca4956866dc9f8b...4e0f97ff06f558b9a10e4a9315cfa00e08d3b2d0) at head `4e0f97f`. rubrics @ [`b8161ef`](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics). Review spend: $1.70.</sub>

File: TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean
Comment (CBirkbeck) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: **Re: your reply on `scope` —** re-reviewed on `4e0f97f`; the finding stands — The J₂ transcription targets S1 before its required S0 source manifest exists.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3749951494.</sub>

Comment (CBirkbeck) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `4e0f97f`; this clears the finding ✅ — approved on `4e0f97f`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3749946799.</sub>

Comment (sqrt-of-2) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: Heads-up on a change pushed for the `reuse` and `generality` threads, which touches this one.

Both of those rubrics asked, at head `4e0f97f`, for the same thing:

* `reuse` — "`j2Presentation_matchesMetadata` restates the conjunction already exposed as `GroupPresentation.matchesMetadata`, creating a parallel theorem interface. *Fix:* State the theorem as `j2Presentation.matchesMetadata` and prove it with `decide`."
* `generality` — "restates the two implementation equalities instead of asserting the natural API-level proposition `j2Presentation.matchesMetadata`. *Fix:* Change the theorem statement to `j2Presentation.matchesMetadata`."

I have done that. The theorem is now

```lean
/-- The generator and relator counts recorded for `J₂` agree with the transcribed data. -/
theorem j2Presentation_matchesMetadata : j2Presentation.matchesMetadata := by decide
```

The `@[simp]` attribute could not come along, and that is not a discretionary choice: the two requests are jointly unsatisfiable. Freshly re-measured on this branch, adding `@[simp]` back to exactly this statement and re-running the environment linters CI runs (`scripts/lint-env.sh`) gives

```
lint-env: NEW violation(s) not in the grandfathered baseline (as '<linter> <declaration>'):
  [simpNF]
  #check TauCeti.Sporadic.j2Presentation_matchesMetadata /- Left-hand side simplifies from
    TauCeti.Sporadic.j2Presentation.matchesMetadata
  to
    TauCeti.Sporadic.j2Presentation.generatorCount = TauCeti.Sporadic.j2Presentation.expectedGeneratorCount ∧
      TauCeti.Sporadic.j2Presentation.transcribed.length = TauCeti.Sporadic.j2Presentation.expectedRelatorCount
  using
    simp only [*, TauCeti.GroupPresentation.matchesMetadata_iff]
  Try to change the left-hand side to the simplified term! -/
LINT-ENV: FAIL — 1 new violation(s); see the list above
```

Without the attribute the same run is `LINT-ENV: PASS — no new violations (53 grandfathered, 1 ratchetable)`. The cause is structural rather than incidental: `GroupPresentation.matchesMetadata_iff` is already `@[simp]` on `main` (`TauCeti/GroupTheory/Presentation/GroupPresentation.lean:117`), so `P.matchesMetadata` is not a simp-normal head for any `P`, and no per-row copy of it can be. The only two ways to keep the annotation are the unfolded restatement that `reuse` and `generality` block, or `@[nolint simpNF]`, which is silencing a linter to force a change through and is forbidden by the repo rules.

This rubric already approved the current API shape on `4e0f97f` — "the existing `GroupPresentation` API supplies the characteristic compiled-word and relator-set lemmas with appropriate simplification rules" — so no `@[simp]` is missing from the public surface here; the general-level rule exists where it belongs. `j2Presentation_matchesMetadata` itself is a closed, `decide`-checked audit fact about one concrete record, with no free variables, consumed by citation rather than by rewriting.

Comment (sqrt-of-2) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: Contesting again, on the rubric's own test rather than on the roadmap's prose.

The rubric's instruction is: *"When the cited target presupposes an earlier stage or layer of the same roadmap, confirm that stage exists on `main` or in an open PR."* S0's stage content, per the milestone table, is three things: **(i)** a relator expression type compiling to signed words, **(ii)** the compilation lemmas, **(iii)** a 26-row source manifest. Applying the test item by item:

* **(i) and (ii) are on `main`.** `TauCeti/GroupTheory/Presentation/Relator.lean` (merged in #2578) defines the expression type and proves `Relator.toWord_toFreeGroup`, the audit boundary S0 names by name. `TauCeti/GroupTheory/Presentation/GroupPresentation.lean` (merged in #2612) is the metadata format, and its module docstring says verbatim that it "implements the finite-presentation metadata format in milestone S0". This file's single import is that module, and its only theorem is discharged by S0's decidable count check. Every Lean prerequisite this PR consumes exists on `main`.
* **(iii) cannot exist on `main` or in an open PR, and cannot be made to.** The manifest's fields are, in the roadmap's words, "the name, exact source, page/theorem or stable identifier, generator names, expected generator and relator counts, transcription artifact, and review status". The last two are decisive: the *transcription artifact* is the Lean `GroupPresentation` record, and the *review status* is the verdict of this review pipeline. A manifest row is therefore not an artifact that precedes a transcription PR — it is a transcription PR plus its review. There is no other place to put it: `TauCeti/` builds Lean modules only (the lakefile glob is `TauCeti.*`), and the roadmap repo is human-owned, with agents explicitly forbidden from opening a PR or issue there.

So the prescribed fix — "Land the complete S0 manifest first (or identify an open PR containing it)" — names no action available to any contributor in this repository. I checked rather than assumed: no merged or open PR carries a manifest artifact, and `TauCeti/GroupTheory/Presentation/` contains exactly `Relator.lean` and `GroupPresentation.lean`. A reading on which the prescribed remedy is unperformable is not a reading the rubric can have intended.

Two further consequences make that concrete rather than rhetorical.

**It would deadlock the lane rather than sequence it.** Five PRs are open in exactly this shape — #2653 (M₁₁, M₁₂, M₂₂), #2659 (Th), #2663 (J₁), #2675 (He), and this one. If the finding is right, all five are blocked forever, because the unblocking artifact is not producible here by anyone. Nothing about S1 or A0 gets closer; the lane simply stops.

**The literal reading also collides with this rubric's own single-topic clause.** If the manifest is to be a Lean artifact, then the only way to satisfy "land the complete S0 manifest first" inside this PR is to add twenty-six rows — twenty-six independent transcriptions from twenty-six separate sources, in one change. That is "several unrelated targets at once", which this rubric blocks, and it defeats the review procedure S1 requires: *"For each transcription, check the recorded relator count against the transcribed list, and require an independent source-to-Lean read-through before marking the row reviewed."* A per-row read-through is only reviewable as a per-row PR. If a Lean-resident manifest module is genuinely wanted, it is its own S0 topic and belongs in its own PR — which is a reason this PR must not carry it, not a reason to hold this PR.

**This row meets S0's admissibility standard on its own terms**, which is the substance the manifest exists to record. S0 demands "a source in which the presentation is *proved* to define the named group, not merely asserted to", and rejects semi-presentations. Stoytchev, arXiv:2011.05660v1, Section 3 gives a full presentation of the abstract group with a proof — not an ATLAS-style generator-checking semi-presentation, the failure mode S0 warns about. The exact locator (`n = 7`, order `604800`), the generator convention, the `±3` normalization choice, the counts, and the GAP cross-check are all recorded in the record itself, and the counts are kernel-checked by `j2Presentation_matchesMetadata`. Whatever form the manifest eventually takes, the J₂ row's content is discharged here and would be copied out of this file.

Comment (kim-em) [inline TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: ### 🟡 scope — request_changes  `codex/gpt-5.6-sol`

This is coherent S1 work, but it is premature because the roadmap’s required S0 source-manifest stage is absent from main.

- `TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:13` — The PR starts an S1 transcription before S0 is complete: no 26-row source manifest exists in the checkout. _Fix:_ Land the roadmap-required S0 manifest with admissible sources for all 26 sporadics before adding this S1 row.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 36s · 109.3k in / 1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f3a6a5a25cec73efcf4c3a3beca4956866dc9f8b...14d4f7f85a7c2ec0886c226f76b941022ad08eb7) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md)</sub>

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The three structured relators faithfully encode the cited J₂ presentation, including the selected positive exponent, and the metadata theorem correctly checks both stated counts. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No duplication of the J₂ presentation or its metadata check was found in TauCeti or Mathlib; the new definition reuses the existing Relator and GroupPresentation APIs. |
| 🟡 | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md) | changes requested | `codex/gpt-5.6-sol` | This is coherent S1 work, but it is premature because the roadmap’s required S0 source-manifest stage is absent from main. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The central formal and informal source is credited in the module documentation, declaration docstring, and presentation metadata with a precise section and entry locator. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The public surface is minimal and sufficient: it exposes the canonical J₂ presentation and its required metadata check while keeping transcription helpers private and relying on the existing GroupPresentation API. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The concrete J₂ presentation and its metadata theorem are stated at the natural level for a single manifest row, with no unused parameters, excessive assumptions, or duplicated special-case proof. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The J₂ presentation is naturally placed under `CFSG/Sporadic/Janko.lean`, and its sole import directly supplies the presentation structures and relator API it uses. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their declarations, and the multiplication notation is local, minimal, and does not leak into the public API. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new substantive file has a useful module docstring, and its public definition and theorem are documented accurately without claiming Lean proves the presentation identifies J₂. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The sole proof uses the documented decidable metadata check directly and is robust, concise, and free of undocumented definitional-equality manipulation. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f3a6a5a25cec73efcf4c3a3beca4956866dc9f8b...14d4f7f85a7c2ec0886c226f76b941022ad08eb7) at head `14d4f7f`. rubrics @ [`b8161ef`](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics). Review spend: $2.30.</sub>

File: TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean
Comment (kim-em) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: **Re: your reply on `scope` —** re-reviewed on `14d4f7f`; the finding stands — This is coherent S1 work, but it is premature because the roadmap’s required S0 source-manifest stage is absent from main.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3750878899.</sub>

Comment (kim-em) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `14d4f7f`; this clears the finding ✅ — approved on `14d4f7f`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3750875740.</sub>

Comment (sqrt-of-2) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: Contesting again, with new evidence that did not exist when the previous rounds ran: **two structurally identical rows have since cleared this exact rubric and merged into `main`.**

## 1. The same judge approved the same shape, twice, on the same repository state

* **#2663 (`J₁`)**, merged `2026-08-10T20:15:42Z` — `scope` ✅ `codex/gpt-5.6-sol`, rubrics `b8161ef`: *"The J₁ presentation is a coherent single-row unit directly advancing CFSGStatement S1; its S0 source selection, locator, metadata, and transcription artifact are recorded together as the roadmap requires."*
* **#2675 (`Held`)**, merged `2026-08-10T18:15:24Z` — `scope` ✅ `codex/gpt-5.6-sol`, rubrics `b8161ef`: *"The PR is a single coherent S1 review unit: it adds the Held presentation row using the existing S0 format and directly advances the roadmap's requirement for complete relator data for all twenty-six sporadic groups."*

Both are one-`GroupPresentation`-row S1 transcriptions importing only `TauCeti.GroupTheory.Presentation.GroupPresentation`, both were reviewed against a `main` with no 26-row manifest artifact on it, and both merged — which under this pipeline means every rubric, `scope` included, was green. `git ls-tree origin/main` now shows `TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Held.lean` and `.../Sporadic/Janko/One.lean`, and still no manifest module: `TauCeti/GroupTheory/Presentation/` contains exactly `Relator.lean` and `GroupPresentation.lean`.

So the premise "S1 may not begin until a 26-row manifest lands" has already been overridden by this rubric's own approvals, and the state it calls disqualifying is the state `main` is in *because* those rows merged. This PR is the same artifact, one name over.

## 2. The rubric tests existence; the finding tests closure — the roadmap keeps these apart

`scope.md` ll. 28-31: *"confirm that stage exists on `main` or in an open PR. Material built for a later stage while its stated prerequisite stage is **absent** …"*. README l. 534 states the other condition, explicitly and separately: *"**S0 closes only** when all 26 rows carry a full admissible source."* A stage that has not closed is not a stage that is absent, and the roadmap uses two different words for the two situations.

S0's stage content (README l. 216) is three things, and the first two are on `main` and are exactly what this file consumes:

* `TauCeti/GroupTheory/Presentation/Relator.lean` (#2578) — the expression type, with `Relator.toWord_toFreeGroup` proved, the audit boundary README l. 471 names.
* `TauCeti/GroupTheory/Presentation/GroupPresentation.lean` (#2612) — the metadata format; its module docstring says verbatim that it "implements the finite-presentation metadata format in milestone S0".

The third, the rows, populates across the lane's PRs — two merged, and #2653 (M₁₁, M₁₂, M₂₂), #2659 (Th), #2694 (HS, McL, Co₂) open beside this one. That is precisely "on `main` or in an open PR".

## 3. The roadmap plans for a partial manifest by name

README ll. 530-532: *"the first S0 task is to find, for each of the 26 names, a source that gives an actual presentation, and to record in the manifest both that source **and the names for which the first pass turned one up**. Do not assume that first pass reaches all twenty-six."* l. 534 then calls the remainder *"an intermediate research artifact and not a permitted end state"*. A partly filled manifest is therefore a state the roadmap explicitly schedules and names — it is an *intermediate* state, not an *absent* stage. Requiring all 26 rows before any row may land also contradicts README ll. 188-190: *"not a demand that each lane land as one enormous pull request; each item should be split further whenever a reviewer cannot inspect its defining data in one sitting"*, and README ll. 541-542: *"**For each transcription**, check the recorded relator count against the transcribed list, and require an independent source-to-Lean read-through before marking the row reviewed."*

## 4. The prescribed fix names no declaration that any `TauCeti/` PR could add

I checked the roadmap's own pinned signatures rather than inferring. `TauCetiRoadmap/CFSGStatement/Suggested.lean` pins `Relator`, `PresentationWord`, `GroupPresentation` (l. 500), `SporadicName.presentation` (l. 529), `GroupPresentation.matchesMetadata`, and `presentation_matchesMetadata` (l. 539). There is **no** manifest type, term, or theorem anywhere in that file. And the manifest's fields, per README ll. 485-487 — "the name, exact source, page/theorem or stable identifier, generator names, expected generator and relator counts, transcription artifact, and review status" — are field-for-field the fields of `GroupPresentation` (`generatorNames`, `source`, `sourceLocator`, `generatorConvention`, `expectedGeneratorCount`, `expectedRelatorCount`, `transcribed`), plus a review status that lives on this PR. README l. 476 says to store that metadata "**with the relators**", which is what this file does. `Suggested.lean` l. 538 puts it beyond doubt that a row is the unit of work: *"closing an **S1 row** means discharging this."*

So "Land the roadmap-required S0 manifest … before adding this S1 row" is not an action available to any contributor here: `TauCeti/` builds Lean modules only, and the roadmap repo is human-owned with agents forbidden to open PRs or issues in it. Concretely: **which declaration under `TauCeti/` would discharge it?** If the answer is a module holding all 26 rows, that is 26 independent transcriptions from 26 sources in one change — blocked by this same rubric's single-topic clause, and unreviewable under README ll. 541-542.

## 5. This is an adequacy question the rubric hands to `correctness`

`scope.md` ll. 36-37: *"Judge the path, not its mathematical adequacy. If scope turns on whether a prerequisite is strong enough or non-vacuous, leave that to correctness."* The finding turns entirely on how complete S0's source selection is — an adequacy judgement. `correctness` has approved this row in all three rounds and by both judges, most recently: *"The three structured relators faithfully encode the cited J₂ presentation, including the selected positive exponent, and the metadata theorem correctly checks both stated counts."*

The row also meets S0's admissibility standard on its own terms (README l. 494, a source in which the presentation is *proved* to define the group, not an ATLAS-style semi-presentation): Stoytchev, arXiv:2011.05660v1, Section 3 gives a full presentation with a proof; the locator (`n = 7`, order `604800`), the generator convention, the `±3` normalization choice, and the counts are recorded in the record, the counts are kernel-checked by `j2Presentation_matchesMetadata`, and GAP 4.15.1 enumerates these exact relators to order `604800`.

No code change pushed for this finding — there is none that clears it without deleting the deliverable. At head `14d4f7f`: `lake build` → `Build completed successfully (7268 jobs).`, `lake exe axioms` → `audited 33991 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]`.

Comment (sqrt-of-2) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: **Re: your reply on `scope` —** re-reviewed on `14d4f7f`; this clears the finding ✅ — approved on `14d4f7f`.

<sub>`agy/gemini-3.6-flash-high` · addresses your replies through comment 3755418468.</sub>

Comment (sqrt-of-2) [reply TauCeti/GroupTheory/SpecificGroups/CFSG/Sporadic/Janko.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `14d4f7f`; this clears the finding ✅ — approved on `14d4f7f`.

<sub>`agy/gemini-3.6-flash-high` · addresses your replies through comment 3750875740.</sub>
